US09126944B2
Intermediate 1A: methyl 3-methoxy-4-(1H-pyrazol-4-yl)benzoate
To a solution of methyl 4-bromo-3-methoxybenzoate (1.32 g, 5.39 mmol) in dioxane (30 mL) and water (5 mL) were added tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-carboxylate (1.901 g, 6.46 mmol), potassium phosphate (2.86 g, 13.47 mmol) and PdCl2(dppf) (0.197 g, 0.269 mmol) at RT. The reaction was stirred under argon at 100° C. for 3 hrs. The reaction mixture was diluted with EtOAc, washed with H2O. The organic phase was dried over sodium sulfate, filtered and concentrated. The residue was dissolved in DCM (10 mL) and TFA (5 mL) was added. The reaction was stirred at RT for 1.5 hrs. Solvent was removed. The residue was taken into EtOAc, which was washed with NaHCO3 (3×) and brine, dried over Na2SO4, filtered and concentrated. The crude product was purified by normal phase chromatography. Desired product was isolated as white solid (0.86 g, 69% yield). LCMS (ESI) m/z: 233.0 (M+H)+; 1H NMR (400 MHz, CDCl3) δ 8.13 (s, 2H), 7.73-7.66 (m, 1H), 7.66-7.56 (m, 2H), 3.98 (s, 3H), 3.94 (s, 3H).

reactant | methyl 4-bromo-3-methoxybenzoate | 5.39 mmol, 1.32 g | BrC1=C(C=C(C(=O)OC)C=C1)OC | C9H9BrO3
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-carboxylate | 6.46 mmol, 1.901 g | CC1(OB(OC1(C)C)C=1C=NN(C1)C(=O)OC(C)(C)C)C | C14H23BN2O4
reactant | potassium phosphate | 13.47 mmol, 2.86 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | water | 5 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | PdCl2(dppf) | 0.269 mmol, 0.197 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | methyl 3-methoxy-4-(1H-pyrazol-4-yl)benzoate | COC=1C=C(C(=O)OC)C=CC1C=1C=NNC1 | C12H12N2O3
